US05767293
To a mixture of 6-hydroxy-5-methoxy-4-[2-methyl-3-(3-methyl-2-butenyl)oxiranyl]-1-oxaspiro[2,5]octane (26 mg), pyridine (44 μl), and 4-dimethylaminopyridine (2 mg) in dichloromethane (0.8 ml) was added dropwise 4-nitrophenyl chloroformate (20 mg) at ambient temperature. After stirring for 2 hours, piperidine (40 μl) was added in one portion. The solution was stirred overnight at ambient temperature and then diluted with diethyl ether (20 ml). The mixture was washed with brine, aqueous saturated sodium bicarbonate solution, and brine successively. The mixture was dried and evaporated under reduced pressure to give a crude oil, which was purified by preparative thin layer chromatography to yield 5-methoxy-4-[2-methyl-3-(3-methyl-2-butenyl)oxiranyl]-6-piperidinocarbonyloxy-1-oxaspiro[2,5]octane (34.3 mg).

reactant | 6-hydroxy-5-methoxy-4-[2-methyl-3-(3-methyl-2-butenyl)oxiranyl]-1-oxaspiro[2,5]octane | 26 mg | OC1C(C(C2(CO2)CC1)C1(OC1CC=C(C)C)C)OC | C16H26O4
reactant | pyridine | 44 μl | N1=CC=CC=C1 | C5H5N
reactant | 4-nitrophenyl chloroformate | 20 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | piperidine | 40 μl | N1CCCCC1 | C5H11N
catalyst | 4-dimethylaminopyridine | 2 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 0.8 ml | ClCCl | CH2Cl2
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | 5-methoxy-4-[2-methyl-3-(3-methyl-2-butenyl)oxiranyl]-6-piperidinocarbonyloxy-1-oxaspiro[2,5]octane | 34.3 mg | COC1C(C2(CO2)CCC1OC(=O)N1CCCCC1)C1(OC1CC=C(C)C)C | C22H35NO5
